US04908384
b. 8-Mercapto-9-(4-pentylphenoxy)-5-nonynoic acid
A mixture of 0.73 g of methyl 8-(acetylthio)-9-(4-pentylphenoxy)-5-nonynoate, the product of Example 12a, 1.25 g of potassium carbonate, 0.6 ml of H2O and 32 ml of MeOH was stirred at RT for 12 hr. MeOH was removed and the residue was acidified with 3N HCL and extracted with Et2O to obtain the crude product. The crude product was purified by silical gel chromatography (CH2Cl2 -MeOH) and then recrystallized in petroleum ether-Et2O to obtain the title compound, mp 70.0-70.5.

reactant | methyl 8-(acetylthio)-9-(4-pentylphenoxy)-5-nonynoate | 0.73 g | C(C)(=O)SC(CC#CCCCC(=O)OC)COC1=CC=C(C=C1)CCCCC | C23H32O4S
reactant | potassium carbonate | 1.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | H2O | 0.6 ml | O | H2O
solvent | MeOH | 32 ml | CO | CH4O
product | 8-Mercapto-9-(4-pentylphenoxy)-5-nonynoic acid | SC(CC#CCCCC(=O)O)COC1=CC=C(C=C1)CCCCC | C20H28O3S
